US08735417B2
To a suspension of tert-butyl {3-amino-5-[2-(3-oxo-1,4-diazepan-1-yl)-1,3-thiazol-5-yl]phenyl}[4-(trifluoromethyl)pyrimidin-2-yl]carbamate (125 mg, 0.227 mmol) in dichloromethane (2.5 mL) at room temperature, under nitrogen, was added triethylamine (0.079 mL, 0.569 mmol) and acetyl chloride (0.024 mL, 0.341 mmol). The mixture was stirred at room temperature for 18 h after which time a solution was obtained. The mixture was diluted with ethyl acetate and washed with water and brine, and dried over sodium sulfate. Silica gel (1 g) was added and the solution concentrated to dryness. The resulting solid was purified by silica gel chromatography (ethanol/dichloromethane eluant) to afford 80 mg (0.135 mmol, 60% yield) of tert-butyl {3-(acetylamino)-5-[2-(3-oxo-1,4-diazepan-1-yl)-1,3-thiazol-5-yl]phenyl}[4-(trifluoromethyl)pyrimidin-2-yl]carbamate as an off-white solid.

reactant | tert-butyl {3-amino-5-[2-(3-oxo-1,4-diazepan-1-yl)-1,3-thiazol-5-yl]phenyl}[4-(trifluoromethyl)pyrimidin-2-yl]carbamate | 0.227 mmol, 125 mg | NC=1C=C(C=C(C1)C1=CN=C(S1)N1CC(NCCC1)=O)N(C(OC(C)(C)C)=O)C1=NC=CC(=N1)C(F)(F)F | C24H26F3N7O3S
reactant | triethylamine | 0.569 mmol, 0.079 mL | C(C)N(CC)CC | C6H15N
reactant | acetyl chloride | 0.341 mmol, 0.024 mL | C(C)(=O)Cl | C2H3ClO
solvent | dichloromethane | 2.5 mL | ClCCl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | tert-butyl {3-(acetylamino)-5-[2-(3-oxo-1,4-diazepan-1-yl)-1,3-thiazol-5-yl]phenyl}[4-(trifluoromethyl)pyrimidin-2-yl]carbamate | 0.135 mmol, 80 mg, 60% yield | C(C)(=O)NC=1C=C(C=C(C1)C1=CN=C(S1)N1CC(NCCC1)=O)N(C(OC(C)(C)C)=O)C1=NC=CC(=N1)C(F)(F)F | C26H28F3N7O4S
